US07230011B2
2,6-Difluorobenzenesulfonic acid 2-methyl-3-(1-methylpiperidin-4-yl)-1H-indol-5-yl ester
A solution of 2-methyl-3-(1-methylpiperidin-4-yl)-5-hydroxy-1H-indole (4.05 mmol, 0.989 g) in THF (12 mL) and 1M sodium hydroxide (4.09 mL) was treated with 2,6-difluorobenzenesulfonyl chloride (4.46 mmol, 0.948 g). After stirring one hour at room temperature the reaction was diluted with water (25 mL) and extracted with ethyl acetate (3×25 mL). The organic phases were combined, concentrated in vacuo to afford foam. The free amine was converted to the hydrochloride salt. Acetyl chloride (approximately 1.2 eq) was added to a cooled solution of ethanol (0° C.). After stirring approximately five minutes, this solution was added to a solution of the free amine in ethanol. The biphasic solution was concentrated in vacuo to foam. The foam was dissolved in acetone, crystals formed, collected by filtration to afford 1.12 g (60%) of the title compound: mp=138° C. (decomposes); mass spectrum (ion spray): m/z=420 (M−1); Calculated for C21H22F2N2O3S-HCl-0.2H20-0.6C3H6O: C, 55.28; H, 5.49; N, 5.66. Found: C, 55.42; H, 5.46; N, 5.30

reactant | 2-methyl-3-(1-methylpiperidin-4-yl)-5-hydroxy-1H-indole | 4.05 mmol, 0.989 g | CC=1NC2=CC=C(C=C2C1C1CCN(CC1)C)O | C15H20N2O
reactant | 2,6-difluorobenzenesulfonyl chloride | 4.46 mmol, 0.948 g | FC1=C(C(=CC=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
reactant | Acetyl chloride | approximately 1.2 eq | C(C)(=O)Cl | C2H3ClO
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | sodium hydroxide | 1M, 4.09 mL | [OH-].[Na+]
solvent | water | 25 mL | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 2,6-Difluorobenzenesulfonic acid 2-methyl-3-(1-methylpiperidin-4-yl)-1H-indol-5-yl ester | 1.12 g, 60% | CC=1NC2=CC=C(C=C2C1C1CCN(CC1)C)OS(=O)(=O)C1=C(C=CC=C1F)F | C21H22F2N2O3S
